US07994312B2
5-(4-tert-Butylphenyl)dipyrromethane (1a).
Following a general procedure,8 a solution of 4-tert-butylbenzaldehyde (16.2 g, 100 mmol) in pyrrole (694 mL, 10.0 mol) at room temperature under argon was treated with InCl3 (2.21 g, 10.0 mmol) for 1.5 h. Powdered NaOH (12.0 g, 300 mmol) was added. After stirring for 1 h, the mixture was suction filtered and excess pyrrole was removed under high vacuum. The residue was treated with hexanes (3×100 mL) to facilitate removal of traces of pyrrole. The resulting solid was recrystallized [EtOH/H2O (6:1)], affording a grayish white solid (21.6 g, 79%): mp 155-157° C.; 1H NMR δ 1.31 (s, 9H), 5.45 (s, 1H), 5.94-5.96 (m, 2H), 6.15-6.17 (m, 2H), 6.68-6.70 (m, 2H), 7.13-7.16 (m, 2H), 7.32-7.35 (m, 2H), 7.89-7.95 (br, 2H); 13C NMR δ 31.5, 34.6, 43.6, 107.2, 108.5, 117.2, 125.7, 128.2, 132.9, 139.1, 149.9; FAB-MS obsd 278.1788, calcd 278.1783 (C19H22N2). Anal. Calcd for C19H22N2: C, 81.97; H, 7.97; N, 10.06. Found: C, 81.82; H, 7.96; N, 10.05. The data (1H NMR, mp, elemental analysis) are consistent with those obtained from samples prepared via earlier routes.2

reactant | 4-tert-butylbenzaldehyde | 100 mmol, 16.2 g | C(C)(C)(C)C1=CC=C(C=O)C=C1 | C11H14O
reactant | pyrrole | 10.0 mol, 694 mL | N1C=CC=C1 | C4H5N
reactant | NaOH | 300 mmol, 12.0 g | [OH-].[Na+]
product | 5-(4-tert-Butylphenyl)dipyrromethane | 21.6 g, 79% | CC(C)(C)C1=CC=C(C=C1)C(C2=CC=CN2)C3=CC=CN3 | C19H22N2
